US06894047B2
To an ice-cold solution of 2,6-dimethyl piperazine (179 mmol, 20.4 g), methylene chloride (200 mL), and triethylamine (214 mmol, 29.9 mL) was added dropwise dimethylcarbamoyl chloride (179 mmol, 16.4 mL). After 4 hr the reaction was quenched with a saturated sodium bicarbonate solution and the methylene chloride layer was collected, dried, filtered and the filtrate was evaporated to dryness to obtain an orange oil, 2,6-dimethyl-piperazine-1-carboxylic acid dimethylamide (70%, 23.1 g).

reactant | 2,6-dimethyl piperazine | 179 mmol, 20.4 g | CC1NC(CNC1)C | C6H14N2
reactant | triethylamine | 214 mmol, 29.9 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 179 mmol, 16.4 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2,6-dimethyl-piperazine-1-carboxylic acid dimethylamide | 23.1 g, 70% | CN(C(=O)N1C(CNCC1C)C)C | C9H19N3O
